US06849639B2
Step B: 5-oxo-1-(3-{(benzylamino)carbonylamino}-5-(trifluoromethyl)phenyl)pyrrolidine-3-carboxylic acid
A mixture of N-(3-amino-5-(trifluoromethyl)phenyl)(benzylamino)carboxamide and itaconic acid was fused at 110° C. for 10 hours. The resulted solid was washed with methanol and then dried at 50° C. for 12 hours.

reactant | N-(3-amino-5-(trifluoromethyl)phenyl)(benzylamino)carboxamide | NC=1C=C(C=C(C1)C(F)(F)F)NC(=O)NCC1=CC=CC=C1 | C15H14F3N3O
reactant | itaconic acid | C(C(=C)CC(=O)O)(=O)O | C5H6O4
product | 5-oxo-1-(3-{(benzylamino)carbonylamino}-5-(trifluoromethyl)phenyl)pyrrolidine-3-carboxylic acid | O=C1CC(CN1C1=CC(=CC(=C1)C(F)(F)F)NC(=O)NCC1=CC=CC=C1)C(=O)O | C20H18F3N3O4
